US07648986B2
Step 2: preparation of 2-[(1-benzothien-2-ylcarbonyl)amino]nicotinamide
A mixture of 2-[(1-benzothien-2-ylcarbonyl)amino]nicotinic acid (112 g, 4.0 mmol), EDC (2.3 g, 12.0 mmol) and DMAP (1.46 g, 12.0 mmol) in anhyd dichloromethane (50 mL) was stirred at room temperature for 2 h. To this mixture was added 40% aqueous ammonia (4.0 mL), and the resulting solution stirred at room temperature overnight. The solvent was removed in vacuo and the resulting solid was washed with satd NH4Cl solution, NaHCO3 solution, and water. The solid was dried to give product as white powder (0.92 g, 77%). HPLC/MS: (M+H)+298.15 m/z Retention time (LC-MS)=2.44 min. 1H NMR (DMSO-D6): 12.25 (1H, s); 8.54(1H, m); 8.21(1H, s); 8.18(1H, d); 8.07(2H, m); 7.52(2H, m); 7.32(1H, m).

reactant | 2-[(1-benzothien-2-ylcarbonyl)amino]nicotinic acid | 4.0 mmol, 112 g | S1C(=CC2=C1C=CC=C2)C(=O)NC2=C(C(=O)O)C=CC=N2 | C15H10N2O3S
reactant | EDC | 12.0 mmol, 2.3 g
reactant | ammonia | 4.0 mL | N | H3N
catalyst | DMAP | 12.0 mmol, 1.46 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-[(1-benzothien-2-ylcarbonyl)amino]nicotinamide | 0.92 g, 77% | S1C(=CC2=C1C=CC=C2)C(=O)NC2=C(C(=O)N)C=CC=N2 | C15H11N3O2S
